US07173038B1
A 37% aqueous solution of formaldehyde (501 μl, 6 mmol) followed by sodium cyanoborohydride (228 mg, 3.6 mmol) were added in portions to a solution of 6-methoxy-7-(piperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (1.21 g, 3 mmol) in a mixture of THF/methanol (10 ml/10 ml). After stirring for 30 minutes at ambient temperature, the organic solvents were removed under vacuum and the residue was partitioned between methylene chloride and water. The organic layer was separated, washed with water and brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was triturated with ether and the resulting solid was collected by filtration, washed with ether and dried under vacuum to give 6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (1.02 g, 82%).

reactant | formaldehyde | 6 mmol, 501 μl | C=O | CH2O
reactant | sodium cyanoborohydride | 3.6 mmol, 228 mg | C(#N)[BH3-].[Na+]
reactant | 6-methoxy-7-(piperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 3 mmol, 1.21 g | COC=1C=C2C(N(C=NC2=CC1OCC1CCNCC1)COC(C(C)(C)C)=O)=O | C21H29N3O5
solvent | THF methanol | 10 ml | C1CCOC1.CO
product | 6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 1.02 g, 82% | COC=1C=C2C(N(C=NC2=CC1OCC1CCN(CC1)C)COC(C(C)(C)C)=O)=O | C22H31N3O5
